US09056883B2
Step 4: Synthesis of 3,5-Dimethyl-2-(6-phenylnaphthalen-2-yl)pyrazine (abbreviation: Hdm6p2npr)
First, into a recovery flask equipped with a reflux pipe were placed 0.24 g of 2-chloro-3,5-dimethylpyrazine, 0.41 g of 6-phenylnaphthalene-2-boronic acid, 0.18 g of sodium carbonate, 0.008 g of bis(triphenylphosphine)palladium(II)dichloride (abbreviation: Pd(PPh3)2Cl2), 10 mL of water, and 10 mL of acetonitrile, and the air in the flask was replaced with argon. This reaction container was irradiated with microwaves (2.45 GHz, 100 W) for 30 minutes, so that heating was performed. Then, the reaction container was cooled to 50° C. or less. Water was added to the reaction solution, and the organic layer was extracted with dichloromethane. The obtained organic layer was washed with water and dried with magnesium sulfate. The solution which had been dried was filtered. The solvent of this solution was distilled, whereby Hdm6p2npr, which is the pyrazine derivative to be produced, was obtained (as a white powder in 82% yield). Note that the microwave irradiation was performed using a microwave synthesis system (Discover, manufactured by CEM Corporation). The synthesis scheme of Step 4 is illustrated in the following (d-4).

reactant | 2-chloro-3,5-dimethylpyrazine | 0.24 g | ClC1=NC=C(N=C1C)C | C6H7ClN2
reactant | 6-phenylnaphthalene-2-boronic acid | 0.41 g | C1(=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)B(O)O | C16H13BO2
reactant | sodium carbonate | 0.18 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 0.008 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | Water | O | H2O
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
solvent | water | 10 mL | O | H2O
product | 3,5-Dimethyl-2-(6-phenylnaphthalen-2-yl)pyrazine | 82% yield | CC=1C(=NC=C(N1)C)C1=CC2=CC=C(C=C2C=C1)C1=CC=CC=C1 | C22H18N2
